US06184180B2
Synthesis of 10-dodecylthiodecylamine hydrobromide
In a 1000 ml flask equipped with a stirrer, a condenser and a calcium chloride dryer tube were charged 27.0 g of the carboxylic acid synthesized in Synthetic example 21, 10.0 g of thionyl chloride, one drop of DMF and 100 ml of chloroform, and the mixture was refluxed for 2 hours on an oil bath. After completion of the reaction, chloroform and excessive thionyl chloride were removed by distillation under reduced pressure to obtain acid chloride. Whole content of the resulting acid chloride was diluted with 100 ml of acetone, and added dropwise under ice-cooling to 5.9 g of sodium azide dissolved in 60 ml of distilled water which had been previously charged in a 300 ml flask. After completion of the dropwise addition, the mixture was stirred at the same temperature for one hour and the mixture was extracted twice with 300 ml of toluene. The organic layers were combined and washed three times with distilled water and once with a saturated saline solution. The organic layer was dried over anhydrous sodium sulfate and the filtrate was refluxed for one hour. To the mixture were added 11.3 g of benzyl alcohol and 3 drops of triethylamine, and the resulting mixture was further refluxed for 2 hours. After completion of the reaction, toluene was removed under reduced pressure and the residual crystals were recrystallized from ethanol to obtain 26.5 g of benzyl N-(10-dodecylthio)decylcarbamate. In a 300 ml flask were charged 24.5 g of the resulting benzyl N-(10-dodecylthio)decylcarbamate, 20 ml of 48% hydrobromic acid and 180 ml of glacial acetic acid and the mixture was refluxed for 2 hours. After completion of the reaction, glacial acetic acid was removed under reduced pressure and the residual crystals were recrystallized from ethanol to obtain 17.0 g of the title compound.

reactant | benzyl N-(10-dodecylthio)decylcarbamate | 24.5 g | CCCCCCCCCC(CC)SCCCCCCCCCCNC(OCC1=CC=CC=C1)=O | C30H53NO2S
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 10-dodecylthiodecylamine hydrobromide | 17.0 g | Br.C(CCCCCCCCCCC)SCCCCCCCCCCN | InChI=1S/C22H47NS.BrH/c1-2-3-4-5-6-7-9-12-15-18-21-24-22-19-16-13-10-8-11-14-17-20-23;/h2-23H2,1H3;1H
